US07968570B2
CuI (0.057 g, 0.3 mmol) and potassium fluoride (0.017 g, 0.3 mmol) were added under N2 atmosphere to a stirred solution of 2-benzyl-7-iodo-2,3-dihydro-isoindol-1-one (0.089 g, 0.25 mmol) and chloro-difluoro-acetic acid methyl ester (0.053 mL, 0.5 mmol) in DMF (3 mL). The mixture was heated at 140° C. for 5-8 h. The reaction was cooled and the solvent evaporated. Silica gel column chromatography of the resulting material using 30% ethyl acetate in hexane afforded 2-benzyl-7-trifluoromethyl-2,3-dihydro-isoindol-1-one (0.03 g, 41%). 1H NMR (300 MHz, CDCl3): δ (ppm) 4.28 (s, 2H), 4.79 (s, 2H), 7.33 (m, 5H), 7.59 (m, 2H), 7.76 (d, 1H). GC-MS: m/z 291 (M)+, 270 (M−20)+.

reactant | potassium fluoride | 0.3 mmol, 0.017 g | [F-].[K+]
reactant | 2-benzyl-7-iodo-2,3-dihydro-isoindol-1-one | 0.25 mmol, 0.089 g | C(C1=CC=CC=C1)N1C(C2=C(C=CC=C2C1)I)=O | C15H12INO
reactant | chloro-difluoro-acetic acid methyl ester | 0.5 mmol, 0.053 mL | COC(C(F)(F)Cl)=O | C3H3ClF2O2
solvent | DMF | 3 mL | CN(C)C=O | C3H7NO
catalyst | CuI | 0.3 mmol, 0.057 g | [Cu]I
product | 2-benzyl-7-trifluoromethyl-2,3-dihydro-isoindol-1-one | 0.03 g, 41% | C(C1=CC=CC=C1)N1C(C2=C(C=CC=C2C1)C(F)(F)F)=O | C16H12F3NO
